US05395815
Preparation Example 1: Preparation of 4'-hydroxy-n-heptadecananilide (Example 3)
Under a nitrogen atmosphere, p-aminophenol (109 g) was suspended in methyl ethyl ketone (2000 ml) and the suspension was heated to 70° C. Heptadecanoyl chloride (152 g) was added to the suspension with vigorous stirring, followed by refluxing with heating for 2 hours. A 5% aqueous hydrochloric acid solution (500 ml) was added to the resulting reaction mixture with vigorous stirring. The reaction mixture was cooled to room temperature to precipitate a white crystal. This crystal was filtered off under reduced pressure and recrystallized from methyl ethyl ketone to obtain 150 g of the desired product. Yield 80%; m.p. 137° C.

reactant | p-aminophenol | 109 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | Heptadecanoyl chloride | 152 g | C(CCCCCCCCCCCCCCCC)(=O)Cl | C17H33ClO
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | methyl ethyl ketone | 2000 ml | C(C)C(=O)C | C4H8O
product | 4'-hydroxy-n-heptadecananilide | 150 g, Yield 80% | OC1=CC=C(NC(CCCCCCCCCCCCCCCC)=O)C=C1 | C23H39NO2
